US09023840B2
Step 3: 5-{3-(cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-(3,3-difluorocyclobutyl)pyridine-2-carboxamide
A mixture of benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (60.0 mg, 0.14 mmol), 5-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyridine-2-carboxylic acid (48.4 mg, 0.0913 mmol), 3,3-difluorocyclobutanamine hydrochloride (20. mg, 0.14 mmol, Molbridge: Cat. #MB00001399) and N,N-diisopropylethylamine (64 μL, 0.36 mmol) in methylene chloride (2 mL) was stirred at room temperature overnight. The reaction mixture was worked up with aqueous NaHCO3, and extracted with dichloromethylene (2×2 mL). The combined organic layers were washed with water (1 mL), concentrated and dried under reduced pressure. The residue was dissolved in dichloromethylene (1 mL) and trifluoroacetic acid (0.5 mL). The mixture was stirred at room temperature for 1.5 hours, and concentrated under reduced pressure. The residue was dissolved in methanol (2.5 mL). Ethylenediamine (0.21 mL, 3.2 mmol) were added. The reaction mixture was stirred at room temperature for 2 hours, and purified by RP-HPLC (pH=10) to afford the desired product. LCMS (M+H)+: m/z=490.1. 1H NMR (300 MHz, DMSO-d6): δ 12.50 (br, 1H), 9.01 (s, 1H), 8.93 (d, J=7.8 Hz, 1H), 8.76 (s, 1H), 8.50 (s, 1H), 7.89 (d, J=2.7 Hz, 1H), 7.81 (d, J=8.6 Hz, 1H), 7.70 (dd, J=3.4, 2.5 Hz, 1H), 7.15 (dd, J=3.5, 1.5 Hz, 1H), 7.04 (dd, J=8.6, 2.8 Hz, 1H), 4.63 (d, J=9.0 Hz, 2H), 4.36 (d, J=8.9 Hz, 2H), 4.23 (m, 1H), 3.73 (s, 2H), 2.80 (m, 4H).

reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.14 mmol, 60.0 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 5-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}pyridine-2-carboxylic acid | 0.0913 mmol, 48.4 mg | C(#N)CC1(CN(C1)C=1C=CC(=NC1)C(=O)O)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C26H30N8O3Si
reactant | 3,3-difluorocyclobutanamine hydrochloride | 0.14 mmol | Cl.FC1(CC(C1)N)F
reactant | N,N-diisopropylethylamine | 0.36 mmol, 64 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | Ethylenediamine | 3.2 mmol, 0.21 mL | C(CN)N | C2H8N2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 5-{3-(cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-(3,3-difluorocyclobutyl)pyridine-2-carboxamide | C(#N)CC1(CN(C1)C=1C=CC(=NC1)C(=O)NC1CC(C1)(F)F)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C24H21F2N9O
